US07750003B2
3-Methyl-1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]urea
1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-methyl-urea (1.24 g) was partially dissolved in DCM (30 mL) and triethylamine (0.724 mL) and the solution was cooled to 0° C. Methane sulfonyl chloride was added (0.405 mL) and the reaction was stirred for 15 minutes at RT then concentrated in vacuo to give the desired material.

reactant | 1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-methyl-urea | 1.24 g | OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC | C18H23N5O3
reactant | triethylamine | 0.724 mL | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]urea | CNC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)N1[C@H](COCC1)C)COS(=O)(=O)C)=O | C19H25N5O5S
